US04031088
3'-Carboxy-5'-nitroglutaranilic Acid [F; Y is CH2CH2CH2, Z is OH] was prepared by warming gently a solution of 5.0 g. of 3-glutarimido-5-nitrobenzoic acid in excess 10% aqueous sodium hydroxide. The solution was acidified with 3N hydrochloric acid and the product collected and recrystallized from ethyl acetate to give 3'-carboxy-5'-nitroglutaranilic acid, pale yellow prisms, m.p. 182°-184° C.

reactant | 3-glutarimido-5-nitrobenzoic acid | C1(CCCC(N1C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-])=O)=O | C12H10N2O6
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 3'-carboxy-5'-nitroglutaranilic acid | C(=O)(O)C=1C=C(NC(CCCC(=O)O)=O)C=C(C1)[N+](=O)[O-] | C12H12N2O7
